US07691843B2
To a stirred solution of 1-allyl-2-methoxy-5-nitro-3-trifluoromethoxybenzene (1.9 g, 6.86 mmol, 1 eq.) in MeOH (26 mL) at room temperature was added aqueous HCl solution (3.4 mL, 3.0 M) followed by 10% Pd/C (256 mg). The reaction mixture was stirred under H2 atmosphere for 17 h, filtered through a pad of celite and concentrated in vacuo to give 4-methoxy-3-propyl-5-trifluoromethoxyphenylamine hydrochloride (1.6 g). The product was used without further purification.

reactant | 1-allyl-2-methoxy-5-nitro-3-trifluoromethoxybenzene | 6.86 mmol, 1.9 g, 1 eq. | C(C=C)C1=C(C(=CC(=C1)[N+](=O)[O-])OC(F)(F)F)OC | C11H10F3NO4
reactant | HCl | 3.0 M, 3.4 mL | Cl | ClH
solvent | MeOH | 26 mL | CO | CH4O
catalyst | Pd/C | 256 mg | [Pd] | Pd
product | 4-methoxy-3-propyl-5-trifluoromethoxyphenylamine hydrochloride | 1.6 g | Cl.COC1=C(C=C(C=C1OC(F)(F)F)N)CCC | InChI=1S/C11H14F3NO2.ClH/c1-3-4-7-5-8(15)6-9(10(7)16-2)17-11(12,13)14;/h5-6H,3-4,15H2,1-2H3;1H
